US04904760
Examples of these cyanate ester compounds include 1,3- or 1,4-dicyanato benzene, 1,3,5-tricyanatobenzene, 1,3-, 1,4-, 1,6-, 1,8-, 2,6- or 2,7-dicyanate naphthalene, 1,3,6-tricyanato naphthalene, 4,4'-dicyanato biphenyl, bis(4-dicyanatophenyl)methane, bis(3,5-dimethyl-4-dicyanatophenyl)methane, 2,2-bis(4-cyanatophenyl)propane, 2,2-bis(3,5-dichloro-4-cyanatophenyl)propane, 2,2-bis(3,5-dibrome-4-cyanatophenyl)propane, 2,2-bis(3,5-dimethyl-4-cyanatophenyl)propane, bis(4-cyanatophenyl)ether, bis(4-cyanatophenyl)thioether, bis(4-cyanatophenyl)sulfone, tris(4-cyanatophenyl)phosphite, tris(4-cyanatophenyl)phosphate, polyfunctional novolak-cyanates obtained by reacting novolak with a cyanogen halide (U.S. Pat. Nos. 4,022,755 and 3,448,079), polyfunctional polycarbonatecyanates obtained by reacting an OH-terminated polycarbonate oligomer with a cyanogen halide (U.S. Pat. No. 4,026,913 and DEP 2,611,796) and styryl pyridine cyanate obtained by reacting a cyanogen halide with a poly-hydroxy-styryl-pyridine obtained by reacting a hydroxy benzaldehyde with an alkyl-substituted pyridine (U.S. Pat. No. 4,578,439). Other suitable cyanate ester compounds are given in U.S. Pat. Nos. 3,553,244; 3,755,402; 3,740,348; 3,595,900; 3,694,410 and 4,116,946, GBP 1,305,967 and 1,060,933, DEP 1,190,184 and 1,195,764. These U.S. Patents and D.E. Patents are incorporated herein by way of reference.

reactant | 1,3,5-tricyanatobenzene | O(C#N)C1=CC(=CC(=C1)OC#N)OC#N | C9H3N3O3
reactant | 1,3,6-tricyanato naphthalene | O(C#N)C1=CC(=CC2=CC(=CC=C12)OC#N)OC#N | C13H5N3O3
reactant | 4,4'-dicyanato biphenyl | O(C#N)C1=CC=C(C=C1)C1=CC=C(C=C1)OC#N | C14H8N2O2
reactant | 2,2-bis(4-cyanatophenyl)propane | O(C#N)C1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OC#N | C17H14N2O2
reactant | 2,2-bis(3,5-dichloro-4-cyanatophenyl)propane | ClC=1C=C(C=C(C1OC#N)Cl)C(C)(C)C1=CC(=C(C(=C1)Cl)OC#N)Cl | C17H10Cl4N2O2
reactant | 2,2-bis(3,5-dimethyl-4-cyanatophenyl)propane | CC=1C=C(C=C(C1OC#N)C)C(C)(C)C1=CC(=C(C(=C1)C)OC#N)C | C21H22N2O2
reactant | bis(4-cyanatophenyl)ether | O(C#N)C1=CC=C(C=C1)OC1=CC=C(C=C1)OC#N | C14H8N2O3
reactant | bis(4-cyanatophenyl)thioether | O(C#N)C1=CC=C(C=C1)SC1=CC=C(C=C1)OC#N | C14H8N2O2S
reactant | bis(4-cyanatophenyl)sulfone | O(C#N)C1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)OC#N | C14H8N2O4S
reactant | tris(4-cyanatophenyl)phosphite | O(C#N)C1=CC=C(C=C1)OP(OC1=CC=C(C=C1)OC#N)OC1=CC=C(C=C1)OC#N | C21H12N3O6P
reactant | tris(4-cyanatophenyl)phosphate | O(C#N)C1=CC=C(C=C1)OP(=O)(OC1=CC=C(C=C1)OC#N)OC1=CC=C(C=C1)OC#N | C21H12N3O7P
product | styryl pyridine cyanate | [O-]C#N.C(=CC1=CC=CC=C1)C1=NC=CC=C1 | InChI=1S/C13H11N.CHNO/c1-2-6-12(7-3-1)9-10-13-8-4-5-11-14-13;2-1-3/h1-11H;3H/p-1
